US05593996
5,7 Dichloro-6-(4-methylphenyl)-1,2,4-triazolo-[1,5-a]pyrimidine (1.8 g, 6 mmol) was dissolved in tetrahydrofuran. A solution of cyclopentylamine (0.51 g, 6 mmol) and triethylamine (0.61 g, 6 mmol) in tetrahydrofuran (2 ml) was then added with stirring and the stirring continued for a further 3 hours at ambient temperature (20° C.). The reaction mixture was then evaporated in vacuo and the residue extracted with dichloromethane and water (100 ml each). The organic layer was dried over sodium sulphate and the solvent evaporated in vacuo. The residue was crystallized from ethyl acetate to give 1.7 g 5-chloro-6-(4-methylphenyl)-7-cyclopentylamino-1,2,4-triazolo[1,5-a]pyrimidine as yellowish crystals, m.pt. 158° C. Yield: 87% of theoretical 1H-NMR: δ=1.3-1.75 (2 m, 8H); 2.43(s,1H); 3.73 (m,1H); 5.97 (d,1H); 7.25 (m,4H); 8.25(s,1H) ppm

reactant | 5,7 Dichloro-6-(4-methylphenyl)-1,2,4-triazolo-[1,5-a]pyrimidine | 6 mmol, 1.8 g | ClC1=NC=2N(C(=C1C1=CC=C(C=C1)C)Cl)N=CN2 | C12H8Cl2N4
reactant | cyclopentylamine | 6 mmol, 0.51 g | C1(CCCC1)N | C5H11N
reactant | triethylamine | 6 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5-chloro-6-(4-methylphenyl)-7-cyclopentylamino-1,2,4-triazolo[1,5-a]pyrimidine | 1.7 g, Yield: 87% | ClC1=NC=2N(C(=C1C1=CC=C(C=C1)C)NC1CCCC1)N=CN2 | C17H18ClN5
